US04806539
3.3 g (10 mmol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid are heated at 90° in 50 ml of dimethylformamide with 4 g (27 mmol) of trifluoromethylthiomethyl chloride, 2.1 g of triethylamine, 1.7 g of potassium iodide and 0.2 g of tetrabutylammonium iodide for 16 hours. The solution is poured into 50 ml of water and the precipitate is filtered off with suction and boiled up with methanol. 1.5 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-trifluoromethylthiomethyl-1-piperazinyl)-3-quinolinecarboxylic acid of melting point 247°-250° (with decomposition) are obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 10 mmol, 3.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | trifluoromethylthiomethyl chloride | 27 mmol, 4 g | FC(SCCl)(F)F | C2H2ClF3S
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 1.7 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 0.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 ml | O | H2O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-trifluoromethylthiomethyl-1-piperazinyl)-3-quinolinecarboxylic acid | 1.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CSC(F)(F)F)F)=O)C(=O)O | C19H19F4N3O3S
